US06333358B1
In 10 ml of benzene were stirred 1.01 g of N-chloroacetyl-N-(2-methoxybenzyl)-2-phenoxyaniline, 1.30 g of sodium acetate and 170 mg of tetra-n-butyl ammonium bromide at 80° C. for 5 hours. The reaction mixture was poured into ethyl acetate, washed with water and a saturated aqueous sodium chloride solution, successively, and dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the solvent was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; ethyl acetate-hexane=1:3) to give 1.03 g of N-acetoxyacetyl-N-(2-methoxybenzyl)-2-phenoxyaniline as an oil.

reactant | N-chloroacetyl-N-(2-methoxybenzyl)-2-phenoxyaniline | 1.01 g | ClCC(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)OC | C22H20ClNO3
reactant | sodium acetate | 1.30 g | C(C)(=O)[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
catalyst | tetra-n-butyl ammonium bromide | 170 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | N-acetoxyacetyl-N-(2-methoxybenzyl)-2-phenoxyaniline | 1.03 g | C(C)(=O)OCC(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)OC | C24H23NO5
